data/oMe_Silver.jsonl
{"reaction_id": "NR-328_1-c1cnccc1_2-c1ccc(Cl)cc1","level": "medium","name": "Zincke Reaction","reactants_smiles": ["c1cccc[n+]1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","N(c1cnccc1)c1ccc(Cl)cc1"],"products_smiles": ["N(c1cnccc1)(c1ccc(Cl)cc1)C=CC=CC=O"],"conditions": "Polar solvent (e.g., water, ethanol)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1cnccc1N(c1ccc(Cl)cc1)C1C=CC=CN1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The amine nucleophile attacks the electron-deficient pyridinium ring, activated by nitro groups, enabling ring opening due to resonance-stabilized cationic intermediates in polar solvent."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "c1cnccc1N(c1ccc(Cl)cc1)C=CC=CC=N(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The opened chain undergoes electrocyclization driven by conjugation and relief of charge separation, forming a more stable extended π-system."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1cnccc1N(c1ccc(Cl)cc1)C=CC=CC=O","step_weight": 0,"rationale": "Nucleophilic substitution occurs as the leaving group departs, favored by the stability of the conjugated enaminone product and good leaving ability of the nitro-activated fragment."}],"description": "In the Zincke reaction, a nucleophilic amine opens an activated pyridinium ring substituted with strong electron-withdrawing nitro groups. The ring undergoes electrocyclic rearrangement, followed by substitution to yield a conjugated enaminone. Polar solvents stabilize charged intermediates, facilitating the transformation."}
{"reaction_id": "NR-130_1-C(C)C_2-C(=O)OC_3-C(=O)C","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(C(=O)OC)=C(C(=O)C)N(C(C)C)C(C)C"],"products_smiles": ["c1ccc2c(c1)c(C(=O)OC)c(C(=O)C)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(C(=O)OC)=C(C(=O)C)N(C(C)C)C(C)C","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(C(=O)OC)C(C(=O)C)=[N+](C(C)C)C(C)C","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(C(=O)OC)C(C(=O)C)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(C(=O)OC)c(C(=O)C)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
